US06949571B2
3-[4-(2-Cyanophenyl)piperidin-1-yl]-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one
29 mg of 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one was dissolved in 200 mg of 1-(2-cyanophenyl)piperazine, followed by heating at 130° C. for 72 hours. After the reaction solution was cooled to room temperature, water was added thereto, followed by extracting with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 8 mg of the title compound.

reactant | 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 29 mg | BrC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H11BrN2O
reactant | water | O | H2O
reactant | 1-(2-cyanophenyl)piperazine | 200 mg | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
product | 3-[4-(2-Cyanophenyl)piperidin-1-yl]-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 8 mg | C(#N)C1=C(C=CC=C1)C1CCN(CC1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C28H24N4O
